US05476876
To a stirred, ice-cold solution of 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(4-methoxyphenylmethylthio)-3-methyl-butan-1-one (70 mg) in CHCl3 (1 mL), under argon, is added CF3COOH (0.02 mL) via syringe. The reaction mixture is kept at 0° C. for 3 hours, and then solvent is evaporated under reduced pressure to give a brown oil. The crude material is purified twice by preparative silica gel thin layer chromatography (hexane:ethyl acetate, 9:1), to give 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-sulfhydryl-3-methyl-butan-1-one as a colorless oil.

reactant | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(4-methoxyphenylmethylthio)-3-methyl-butan-1-one | 70 mg | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CC(C)(C)SCC1=CC=C(C=C1)OC)=O | C27H38O3S
reactant | CF3COOH | 0.02 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-sulfhydryl-3-methyl-butan-1-one | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CC(C)(C)S)=O | C19H30O2S
